US07268159B2
Synthesis of 1-(4-{[(4-tert-butylphenyl)sulfonyl]amino}benzyl)-1H-indole-3-carboxylic acid
The title compound was prepared from 1-(4-nitro-benzyl)-1H-indole-3-carboxylic acid methyl ester and 4-tert-butylbenzenesulfonyl chloride followed the procedure of Example 3 Step 2 as a light brown solid: 1H NMR (DMSO-d6) δ 1.24 (s, 9H), 5.36 (s, 2H), 7.04 (d, J=8.5 Hz, 2H), 7.13-7.18 (m, 4H), 7.45 (dd, J=6.1, 2.6 Hz, 1H), 7.52 (d, J=8.8 Hz, 2H), 7.66 (d, J=8.8 Hz, 2H), 8.00 (dd, J=6.1, 2.6 Hz, 1H), 8.13 (s, 1H), 10.23 (br s, 1H), 11.98 (br s, 1H); MS (ESI) m/z 463 (MH+), 461 ([M−H]−); HRMS calcd for C26H27N2O4S: 463.1690; found (ESI+): 463.1681; Anal. calcd for C26H26N2O4S.0.06 TFA: C, 67.51; H, 5.67; N, 6.06. Found: C, 67.40; H, 5.65; N, 6.04.

reactant | 1-(4-nitro-benzyl)-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
reactant | 4-tert-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-{[(4-tert-butylphenyl)sulfonyl]amino}benzyl)-1H-indole-3-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)O)C=C1 | C26H26N2O4S
